* simple_buck_prb -- converted from PLECS
.param T_sim=1e-3
.param dt=1e-6
.param Vi=24
.param Ii_max=2
.param Vo_ref=12
.param fs=100e3
.param Lo=10e-6
.param Co=100e-6
.param Ldm=1e-6
.param Cdm=10e-6
.param ron=100e-3
.param Vf_d=0.05
.param Ron_d=1e-4
.param D=Vo_ref/Vi
.param Po=Vi*Ii_max
.param Ro=Vo_ref**2/Po
VDCin N002 0 {Vi}
R1 N003 0 {Ro}
L1 N001 N003 {Lo} ic=0
C1 N003 0 {Co} ic={Vo_ref}
D1 0 N001 DMOD_D1
S_FET1 N002 N001 N_GATE_FET1 0 SW_FET1
V_GATE_FET1 N_GATE_FET1 0 PULSE(0 1 0 1n 1n {D/fs} {1/fs})
.model DMOD_D1 D(Vfwd={Vf_d} Ron={Ron_d})
.model SW_FET1 SW(Ron={ron} Roff=1e9 Vt=0.5 Vh=0)
.tran 1e-3
.end
